US09126998B2
rac-8-[(2,6-Difluorobenzyl)oxy]-2-methyl-N-(1,2,3,4-tetrahydroquinolin-3-yl)imidazo[1,2-a]-pyridine-3-carboxamide
70 mg of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid (0.22 mmol), 54 mg of (benzotriazol-1-yloxy)bisdimethylaminomethylium fluoroborate (TBTU, 0.26 mmol) and 133 mg of 4-methylmorpholine (1.32 mmol) were initially charged in 1.5 ml of dichloromethane. After 10 min at RT, 53 mg of 1,2,3,4-tetrahydroquinoline-3-amine (0.24 mmol) were added, and the mixture was stirred at RT overnight. About 5 ml of water were added, the reaction solution was stirred for another 30 min and the resulting precipitate was filtered off, washed thoroughly with water and dried under high vacuum. The crude product was purified by preparative thin-layer chromatography (dichloromethane/methanol 20:1). This gave 52 mg of the title compound (52% of theory).

reactant | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.22 mmol, 70 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C16H12F2N2O3
reactant | (benzotriazol-1-yloxy)bisdimethylaminomethylium fluoroborate | 0.26 mmol, 54 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)O[C+](N(C)C)N(C)C
reactant | 4-methylmorpholine | 1.32 mmol, 133 mg | CN1CCOCC1 | C5H11NO
reactant | 1,2,3,4-tetrahydroquinoline-3-amine | 0.24 mmol, 53 mg | N1CC(CC2=CC=CC=C12)N | C9H12N2
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | water | 5 ml | O | H2O
product | rac-8-[(2,6-Difluorobenzyl)oxy]-2-methyl-N-(1,2,3,4-tetrahydroquinolin-3-yl)imidazo[1,2-a]-pyridine-3-carboxamide | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC3CNC2=CC=CC=C2C3)C(=CC=C1)F | C25H22F2N4O2
